US05294734
1.1 g (3.9 mmol) of 2-amino-7-hydroxy-4-phosphonomethyl-hept-3-enoic acid ethyl ester in 8 ml of water are stirred at 130° C. for 18 hours in a bomb tube. The dark reaction solution is treated with activated carbon and filtered over Hyflo®. The colourless filtrate is concentrated to ~3 ml, and ~25 ml of ethanol are added. The resulting suspension is filtered with suction and dried under a high vacuum at 50° C. 2-amino-7-hydroxy-4-phosphonomethyl-hept-3-enoic acid having a melting point from 190° C. and above (decomp.) is obtained.

reactant | 2-amino-7-hydroxy-4-phosphonomethyl-hept-3-enoic acid ethyl ester | 3.9 mmol, 1.1 g | C(C)OC(C(C=C(CCCO)CP(=O)(O)O)N)=O | C10H20NO6P
solvent | water | 8 ml | O | H2O
product | 2-amino-7-hydroxy-4-phosphonomethyl-hept-3-enoic acid | NC(C(=O)O)C=C(CCCO)CP(=O)(O)O | C8H16NO6P
